US08030306B2
To a stirred solution of 4-(4-(4-chlorophenyl)-2-oxo-2,5-dihydrofuran-3-yl)benzonitrile (58.2 g, 196.81 mmol) in CH2Cl2(300 mL) was added DBU (1.55 mL, 10.36 mmol) at room temperature under argon followed by the slow addition of a solution of di-tert-butyl azo-dicarboxylate (98%, 46.24 g, 196.8 mmol) in CH2Cl2 (100 mL) over 20 min. The reaction mixture was stirred at room temperature for 20 min. After this time, CH3CN (200 mL) was added to the reaction mixture followed by the addition of 4.0 M solution of HCl in dioxane (200 mL) at room temperature. The reaction mixture was stirred at 60° C. for 2.5 hr and a thick precipitate formed as the reaction proceeded. The reaction mixture was cooled to room temperature and diluted with CH3CN (200 mL). The solid was collected by filtration, washed with CH3CN (2×100 mL) and air dried to obtain a tan solid which was used directly in the next step. To the tan solid in MeOH (440 mL) at room temperature under argon was added NaOAc (64.6 g, 787.5 mmol). The reaction mixture was stirred at 65° C. for 2.5 hr. The reaction mixture was cooled to room temperature and concentrated under reduced pressure to remove most of the MeOH. Water (440 mL) was added and the resulting suspension was stirred at room temperature for 10 min. The solid was filtered, washed thoroughly with water followed by hexanes and dried in a vacuum oven at 50° C. overnight to furnish 4-(5-(4-chlorophenyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile (44.9 g, 74% yield) as a light yellow solid.

reactant | 4-(4-(4-chlorophenyl)-2-oxo-2,5-dihydrofuran-3-yl)benzonitrile | 196.81 mmol, 58.2 g | ClC1=CC=C(C=C1)C1=C(C(OC1)=O)C1=CC=C(C#N)C=C1 | C17H10ClNO2
reactant | di-tert-butyl azo-dicarboxylate | 196.8 mmol, 46.24 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | HCl | Cl | ClH
reactant | NaOAc | 787.5 mmol, 64.6 g | CC(=O)[O-].[Na+]
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | CH3CN | 200 mL | CC#N | C2H3N
solvent | MeOH | 440 mL | CO | CH4O
catalyst | DBU | 10.36 mmol, 1.55 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | CH3CN | 200 mL | CC#N | C2H3N
product | 4-(5-(4-chlorophenyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile | 44.9 g, 74% yield | ClC1=CC=C(C=C1)C1=C(C(NN=C1)=O)C1=CC=C(C#N)C=C1 | C17H10ClN3O
